US05202243
Step E: Preparation of 2-methoxy-3-hydroxymethyl-5-ethyl-6-methyl pyridine
To a solution of methyl 2-methoxy-5-ethyl-6-methylnicotinate (2.28 g, 10.9 mmol) in anhydrous tetrahydrofuran (50 mL), under a nitrogen atmosphere, was added cautiously lithium aluminum hydride (0.77 g, 20 mmol). After refluxing this mixture for 15-20 hours, saturated aqueous Na2SO4 was added carefully to quench the cooled reaction mixture. This mixture was diluted with more THF, dried (Na2SO4), filtered and the solvent evaporated. This residue was chased with ethanol/toluene to remove traces of water and triturated with hexane as the product slowly crystallized out to give 1.30 g (66%), mp 53°-55° C.

reactant | methyl 2-methoxy-5-ethyl-6-methylnicotinate | 10.9 mmol, 2.28 g | COC1=C(C(=O)OC)C=C(C(=N1)C)CC | C11H15NO3
reactant | lithium aluminum hydride | 20 mmol, 0.77 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Na2SO4 | [O-]S(=O)(=O)[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | THF | C1CCOC1 | C4H8O
product | 2-methoxy-3-hydroxymethyl-5-ethyl-6-methyl pyridine | COC1=NC(=C(C=C1CO)CC)C | C10H15NO2
